US07417028B2
8b. (2R)-2-(((9H-Fluoren-9-yl)methoxy)carbonylamino)-3-(6-o-tolylpyrimidin-5-yl)propanoic acid hydrochloride
A solution of 290 mg (0.54 mmol) of (2R)-tert-butyl 2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(6-o-tolylpyrimidin-5-yl)propanoate in TFA (2.7 mL), protected from the atmosphere by a calcium chloride-filled drying tube was stirred at room temperature for 4 hours. The reaction mixture was concentrated in vacuo at less than 40° C. and the resulting orange oil was redissolved in toluene twice and evaporated to give the title compound as a white powder, 255 mg, 98% yield.

reactant | (2R)-tert-butyl 2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(6-o-tolylpyrimidin-5-yl)propanoate | 0.54 mmol, 290 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C(=O)OC(C)(C)C)CC=1C=NC=NC1C1=C(C=CC=C1)C | C33H33N3O4
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
solvent | TFA | 2.7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2R)-2-(((9H-Fluoren-9-yl)methoxy)carbonylamino)-3-(6-o-tolylpyrimidin-5-yl)propanoic acid hydrochloride | 98% yield | Cl.C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C(=O)O)CC=1C=NC=NC1C1=C(C=CC=C1)C | InChI=1S/C29H25N3O4.ClH/c1-18-8-2-3-9-20(18)27-19(15-30-17-31-27)14-26(28(33)34)32-29(35)36-16-25-23-12-6-4-10-21(23)22-11-5-7-13-24(22)25;/h2-13,15,17,25-26H,14,16H2,1H3,(H,32,35)(H,33,34);1H/t26-;/m1./s1
